US07425572B2
Step A: Benzyl {(1S)-2-[6-hydroxy-7-(hydroxymethyl)-1H-indazol-1-yl]-1-methylethyl}carbamate.
A solution of benzyl [(1S)-2-(6-hydroxy-1H-indazol-1-yl)-1-methylethyl]carbamate (30.83 g, 0.0949 mol) in THF (400 ml) was treated with aqueous concentrated formaldehyde (37%, 12 M. 0.285 mol, 24 mL) and cooled in an ice bath. To the mixture was slowly added aqueous 1 N sodium hydroxide (0.02 mol, 20 mL) and the reaction was allowed to warm to room temperature while stirring overnight. The reaction was quenched with aqueous saturated sodium bicarbonate (250 mL) and then neutralized to pH 7 with aqueous 2 N hydrochloric acid. The mixture was extracted with ethyl acetate (200 mL×3), the combined organic layers were dried over magnesium sulfate and filtered and evaporated to give crude tan solid, 28.38 g, which was a mixture of desired product and dimerized byproduct by LC/MS 356 m/z and 663 m/z. This residue was purified by chromatography (silica gel, hexane/ethyl acetate 1:1) to give the title compound, (18.44 g, 56%) as a yellow foamy solid, which was not pure by LS/MS 354 m/z with minor 663 m/z.

reactant | benzyl [(1S)-2-(6-hydroxy-1H-indazol-1-yl)-1-methylethyl]carbamate | 0.0949 mol, 30.83 g | OC1=CC=C2C=NN(C2=C1)C[C@H](C)NC(OCC1=CC=CC=C1)=O | C18H19N3O3
reactant | formaldehyde | 0.285 mol, 12 M, 24 mL | C=O | CH2O
reactant | sodium hydroxide | 0.02 mol, 1 N, 20 mL | [OH-].[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | Benzyl {(1S)-2-[6-hydroxy-7-(hydroxymethyl)-1H-indazol-1-yl]-1-methylethyl}carbamate | OC1=CC=C2C=NN(C2=C1CO)C[C@H](C)NC(OCC1=CC=CC=C1)=O | C19H21N3O4
